US04260681
L-proline methyl ester hydrochloride (16.6 g, 100 mmoles dissolved in 100 ml methylene chloride is treated with 14 ml (100 mmoles) of triethylamine. The precipitate which forms is removed by filtration and the filtrate is then added to 17.5 g (100 mmoles) tert-butyloxycarbonyl glycine in 150 ml methylene chloride. The resultant solution is cooled to -5° C. and 23 g (112 mmoles) of dicylohexylcarbodiimide dissolved in 25 ml of methylene chloride is added with stirring. The reaction mixture is stirred at -5° to 0° C. for approximately 90 minutes and then overnight at room temperature. A few drops of acetic acid are added to destroy excess carbodiimide and the cicyclohexyl urea precipitate is then removed from the reaction mixture by filtration. The filtrate is evaporated to afford an oily residue which is redissolved in 100 ml ethyl acetate. The resultant solution is filtered and the filtrate extracted successively with 1 M sodium carbonate/saturated sodium chloride (30:70) 1 M citric acid and saturated sodium chloride. The organic layer is separated, dried over magnesium sulfate, filtered and evaporated to afford an oil which is crystallized from ether/petroleum ether. The crystalline material is characterized using thin-layer chromatography on silica gel developed with CHCl3 /CH3OH/CH3CO2H (10:2:1). The product, tert-butyloxycarbonyl-glycine-L-proline methyl ester, obtained in 50% yield exhibits an Rf of 0.75, m.p. 66°-67° C.

reactant | L-proline methyl ester hydrochloride | Cl.COC([C@H]1NCCC1)=O
reactant | triethylamine | 100 mmoles, 14 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyloxycarbonyl glycine | 100 mmoles, 17.5 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | dicylohexylcarbodiimide | 112 mmoles, 23 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
catalyst | acetic acid | A few drops | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | tert-butyloxycarbonyl-glycine L-proline methyl ester | 50% yield | C(C)(C)(C)OC(=O)NCC(=O)O.COC([C@H]1NCCC1)=O | InChI=1S/C7H13NO4.C6H11NO2/c1-7(2,3)12-6(11)8-4-5(9)10;1-9-6(8)5-3-2-4-7-5/h4H2,1-3H3,(H,8,11)(H,9,10);5,7H,2-4H2,1H3/t;5-/m.0/s1
